US05719157
A mixture of ethyl 2-iodomethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (9.0 g), 2-hydroxy-1-methylimidazole (1.8 g), silver (I) carbonate (Ag2CO3)(5.1 g) and benzene (100 ml) was stirred at 50° C. for 18 hours. The insoluble solid was filtered off. The filtrate was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residual oil was subjected to column chromatography on silica gel. The fractions eluted with chloroform/ethyl acetate (5/1, v/v) gave ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methyl-2-imidazolyl)oxymethyl]quinoline-3-carboxylate (0.8 g, 9%) which was then recrystallized from ethyl acetate-hexane.

reactant | ethyl 2-iodomethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 9.0 g | ICC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24INO6
reactant | 2-hydroxy-1-methylimidazole | 1.8 g | OC=1N(C=CN1)C | C4H6N2O
catalyst | silver (I) carbonate | 5.1 g | C([O-])([O-])=O.[Ag+].[Ag+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[(1-methyl-2-imidazolyl)oxymethyl]quinoline-3-carboxylate | 0.8 g, 9% | COC=1C=C2C(=C(C(=NC2=CC1OC)COC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C27H29N3O7
